* Z:\mnt\design.r\spice\examples\1786F.asc
Q1 N004 N006 N010 0 NP
Q2 N005 N007 N010 0 NP
L1 N004 N003 20µ
L2 N003 N005 20µ
C1 N005 N004 .068µ
L3 N007 N006 1µ
V1 N008 0 28
L4 N001 N002 50m
R1 N002 N001 70K
L5 N010 N012 100µ
D1 N012 N008 1N5818
R2 N003 N009 220K
R3 N009 N010 100K
C3 N003 N009 1000p
D2 0 N012 1N5818
C4 N015 0 1µ
V2 N011 0 5
R5 N008 N007 500
R6 N002 0 1G
XU1 0 N013 0 N015 0 N014 N011 0 SDA SCL N013 N011 N003 N008 N009 N012 LT1786F
.model D D
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.dio
.model NPN NPN
.model PNP PNP
.lib C:\users\brian\My Documents\LTspiceXVII\lib\cmp\standard.bjt
.tran 7m
K1 L1 L2 L3 L4 1
* BAT
.model NP NPN
.include SMBus.vector
.lib LT1786F.sub
.backanno
.end
